US04666915
Ethyl 1,6-dihydro-2-(2-propoxyanilino)-6-oxo-5-pyrimidinecarboxylate (8 g) and sodium hydroxide (3 g) are added to water (100 ml), and the mixture is refluxed with stirring for 1 hour. After cooling, the reaction mixture is acidified with acetic acid, and the resulting solid is collected by filtration and recrystallized from DMF. The precipitate is collected by filtration and added to water (100 ml), and the mixture is refluxed with stirring for 1 hour. After cooling, the product is collected by filtration and dried at 80° C. under reduced pressure to give 1,6-dihydro-2-(2-propoxyanilino)-6-oxo-5-pyrimidinecarboxylic acid (4.5 g). M.p. 202°-204° C.

reactant | Ethyl 1,6-dihydro-2-(2-propoxyanilino)-6-oxo-5-pyrimidinecarboxylate | 8 g | C(CC)OC1=C(NC=2NC(C(=CN2)C(=O)OCC)=O)C=CC=C1 | C16H19N3O4
reactant | sodium hydroxide | 3 g | [OH-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,6-dihydro-2-(2-propoxyanilino)-6-oxo-5-pyrimidinecarboxylic acid | 4.5 g | C(CC)OC1=C(NC=2NC(C(=CN2)C(=O)O)=O)C=CC=C1 | C14H15N3O4
